US08685977B2
5-chloro-4-[3-chloro-4-(trifluoromethoxy)phenoxy]-2-fluorobenzoic acid
Tert-butyl 5-chloro-4-[3-chloro-4-(trifluoromethoxy)phenoxy]-2-fluorobenzoate (Preparation 161, 41.88 g, 0.0868 mol) was dissolved in dichloromethane (75 mL), then trifluoroacetic acid (21.2 mL, 0.285 mol) was added and the mixture was stirred at room temperature for 50 hours. Trifluoroacetic acid was added again (1.2 mL, 0.017 mol) and the reaction left to stir for 4 hours. A solid was observed in the flask, so it was collected by filtration. The filtrate was concentrated in vacuo and dichloromethane (5 mL) was added to the crude, which was stirred for 5 minutes at room temperature. The resulting solid was collected by filtration and set aside. The crops were combined and title compound was isolated as a white solid (29.6 g, 81%).

reactant | Tert-butyl 5-chloro-4-[3-chloro-4-(trifluoromethoxy)phenoxy]-2-fluorobenzoate | 0.0868 mol, 41.88 g | ClC=1C(=CC(=C(C(=O)OC(C)(C)C)C1)F)OC1=CC(=C(C=C1)OC(F)(F)F)Cl | C18H14Cl2F4O4
reactant | trifluoroacetic acid | 0.285 mol, 21.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 5-chloro-4-[3-chloro-4-(trifluoromethoxy)phenoxy]-2-fluorobenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)F)OC1=CC(=C(C=C1)OC(F)(F)F)Cl | C14H6Cl2F4O4
